US04910218
Using the procedure outlined in Example 34A except that dimethyl sulfate was used as the alkylating agent, ethyl 3H-[1]benzothieno[2,3-e]indole-2-carboxylate (H. G. Pars Pharmaceutical Laboratories, Inc.) gave a nearly quantitative yield of crude ethyl 3-methyl-3H-[1]benzothieno[2,3-e]indole-2-carboxylate. This material was formylated using the procedure of A. Rieche et al., Chem. Ber. 93, 88 (1960) to give a crude mixture of aldehydes which was hydrolyzed and decarboxylated without purification using the procedure outlined in Example 15B to give a 19.0% yield of 3-methyl-3H-[1]benzothieno[2,3-e]indole-1-carbaldehyde·0.25 H2O, mp 223.5°-224°, (CH2Cl2 /hexane), (C,H,N).

reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | ethyl 3H-[1]benzothieno[2,3-e]indole-2-carboxylate | C1=C(NC=2C=CC3=C(C12)SC1=C3C=CC=C1)C(=O)OCC | C17H13NO2S
product | ethyl 3-methyl-3H-[1]benzothieno[2,3-e]indole-2-carboxylate | quantitative yield | CN1C(=CC=2C3=C(C=CC12)C1=C(S3)C=CC=C1)C(=O)OCC | C18H15NO2S
